US06518265B1
tert-Butyl 4-[2-(2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate
A suspension of 0.80 g of tert-butyl 4-[2-(4-chloro-2-phenyl-1H-imidazo-[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate and 0.30 g of 5% palladium on carbon in 80 ml of methanol was catalytically hydrogenated at ordinary temperature under atmospheric pressure for 12 hours. Mter the reaction, the catalyst was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography using ethyl acetate—n-heptane (1:1 to 4:1) as eluting solvents and washed with diisopropyl ether to give 0.49 g of pale yellow crystals. Recrystallization from diisopropyl ether gave colorless crystals having the melting point of from 138 to 139° C.

reactant | tert-butyl 4-[2-(4-chloro-2-phenyl-1H-imidazo-[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 0.80 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C28H31ClN4O2
catalyst | palladium on carbon | 0.30 g | [Pd] | Pd
solvent | methanol | 80 ml | CO | CH4O
product | tert-Butyl 4-[2-(2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 0.49 g | C1(=CC=CC=C1)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C28H32N4O2
